US07084139B2
(2S)-2-{(3S)-3-[[(6-Chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid
tert-Butyl (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoate (0.1 g) was dissolved in DCM (2 ml), and trifluoroacetic acid (2 ml) was added. The mixture was stirred at room temperature for 1.5 h and then partitioned between water and DCM. The organic layer was separated, dried (over magnesium sulphate) and concentrated under reduced pressure to give the title compound (0.09 g) as an colourless gum.

reactant | tert-Butyl (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoate | 0.1 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O)C | C22H27ClN2O5S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-{(3S)-3-[[(6-Chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid | 0.09 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O)C | C18H19ClN2O5S
